US08748613B2
(3R)-1-(2-(isoxazol-3-ylamino)-2-oxoethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (C25)
To a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (100 mg, 0.30 mmol) in EtOAc (2 ml) and acetonitrile (1 ml), was added 2-chloro-N-(isoxazol-3-yl)acetamide (58.7 mg, 0.36 mmol). The reaction was stirred at room temperature for 30 hours and then the solvents were evaporated. Purification by flash chromatography (DCM/MeOH=9/1) followed by trituration with Et2O afforded the title compound (55 mg, 36.9% yield) as an off-white solid.

reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.30 mmol, 100 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | 2-chloro-N-(isoxazol-3-yl)acetamide | 0.36 mmol, 58.7 mg | ClCC(=O)NC1=NOC=C1 | C5H5ClN2O2
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (3R)-1-(2-(isoxazol-3-ylamino)-2-oxoethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 55 mg, 36.9% yield | [Cl-].O1N=C(C=C1)NC(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCCC2)C2=CC=CC=C2)=O)=O | InChI=1S/C25H32N4O4.ClH/c30-23(26-22-11-16-32-27-22)18-29-14-9-19(10-15-29)21(17-29)33-25(31)24(20-7-3-1-4-8-20)28-12-5-2-6-13-28;/h1,3-4,7-8,11,16,19,21,24H,2,5-6,9-10,12-15,17-18H2;1H/t19?,21-,24?,29?;/m0./s1
